US07390923B2
3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared as described in Example 1 starting from 2-fluoro-4-hydroxybenzonitrile and 2-methyl-oxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide. 1H NMR (DMSO-d6): 1.46 (3H, s), 2.53 (3H, s), 4.11 (1H, d, J=10.1 Hz), 4.371 (1H, d, J=10.1 Hz), 6.33 (1H, bs), 6.96 (1H, m), 7.18 (1H, m), 7.80 (1H, m), 7.88 (1H, dd, J=9.0 Hz and 2.1 Hz), 7.91 (1H, d, J=2.1 Hz), 8.03 (1H, d, J=9.0 Hz), 10.21 (1H, s).

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 2-methyl-oxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(#N)C1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)F | C18H16FN3O5
